US08124299B2
1-(trimethylsilylethynyl)-4-(p-methoxyphenylethynyl)benzene.
Into a 50 ml round bottom flask was placed a mixture of 0.72 g (0.0054 mole) of p-methoxyphenylacetylene, 1.51 g (0.005 mole) of 4-iodophenyltrimethylsilylacetylene, 0.0102 g (0.0053 mmole) of CuI, 0.102 g (0.146 mmole) of bis(triphenylphosphine)palladium(II) dichloride in 10 ml of THF and 10 ml of triethylamine. The light orange brown mixture was stirred at room temperature under nitrogen for 3 days. The reaction mixture was then filtered and the filtrate concentrated under reduced pressure. The residue was redissolved in 10 ml of chloroform and the solution was washed two times with water (10 ml each) and then dried over anhydrous MgSO4, filtered and concentrated. 1.5 g (98.7% yield) of solid was obtained. 1HNMR: 0.28 ppm (s, 9H); 3.85 ppm (s, 3H); 6.90 ppm (d, 2H); 7.45 ppm (s, 4H); 7.48 ppm (d, 2H).

reactant | p-methoxyphenylacetylene | 0.0054 mole, 0.72 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | 4-iodophenyltrimethylsilylacetylene | 0.005 mole, 1.51 g | IC1=CC=C(C=C1)C#C[Si](C)(C)C | C11H13ISi
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | CuI | 0.0053 mmole, 0.0102 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.146 mmole, 0.102 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(trimethylsilylethynyl)-4-(p-methoxyphenylethynyl)benzene | 1.5 g, 98.7% yield | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OC | C20H20OSi
